US04719248
According to the procedure of Example 2, a sample of 2-(2-hydroxy-5-aminophenyl)-5,6-methylenedioxybenzotriazole is treated with methacryloyl chloride in the presence of triethylamine to yield 2-(2-hydroxy-5-methacrylamidophenyl)-5,6-methylenedioxybenzotriazole. The corresponding chloro, methoxy and methylenedioxy compounds of the acrylamidophenyl series may be produced according to the general synthetic routes disclosed above for the corresponding methacrylamidophenyl compounds.

reactant | 2-(2-hydroxy-5-aminophenyl)-5,6-methylenedioxybenzotriazole | OC1=C(C=C(C=C1)N)N1N=C2C(=N1)C=C1C(=C2)OCO1 | C13H10N4O3
reactant | methacryloyl chloride | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-(2-hydroxy-5-methacrylamidophenyl)-5,6-methylenedioxybenzotriazole | OC1=C(C=C(C=C1)NC(C(=C)C)=O)N1N=C2C(=N1)C=C1C(=C2)OCO1 | C17H14N4O4
